US04006132
A mixture consisting of 61 g. (0.20 mole) chloroglyoxylic acid (2,4,6-trichlorophenyl)hydrazone, 200 ml. carbon tetrachloride, and 100 ml. thionyl chloride was heated at the reflux temperature for 6 1/2 hrs. The carbon tetrachloride and thionyl chloride were removed by evaporation under reduced pressure and 50° C. to give 64 g. of an oil. The oil was extracted with technical hexane and the insoluble starting material was removed by filtration. The technical hexane was removed by evaporation under reduced pressure to give chloroglyoxyloyl chloride (2,4,6-trichlorophenyl) hydrazone.

reactant | chloroglyoxylic acid (2,4,6-trichlorophenyl)hydrazone | 0.20 mole | ClC1=C(C(=CC(=C1)Cl)Cl)NN=C(C(=O)O)Cl | C8H4Cl4N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | chloroglyoxyloyl chloride (2,4,6-trichlorophenyl) hydrazone | ClC1=C(C(=CC(=C1)Cl)Cl)NN=C(C(=O)Cl)Cl | C8H3Cl5N2O
